US08440679B2
3-Dimethylaminomethylene-1-(2-methyl-5-nitro-phenyl)-piperidine-2,4-dione [9]
A solution of 1-(2-Methyl-5-nitro-phenyl)-piperidine-2,4-dione [100 mg, 0.402 mmol] in N,N-Dimethylformamide dimethyl acetal (DMA.DMF) [1 ml] was heated to reflux for 3 hrs. After cooling to room temperature, reaction mixture was concentrated under vacuum. The crude product obtained was further purified by silica gel chromatography using 30-60% ethylacetate/hexane as eluent to obtain pure desired product i.e., 3-Dimethylaminomethylene-1-(2-methyl-5-nitro-phenyl)-piperidine-2,4-dione [9] as dark red solid [Yield: 79.02 mg, 65.02%]

reactant | 1-(2-Methyl-5-nitro-phenyl)-piperidine-2,4-dione | 0.402 mmol, 100 mg | CC1=C(C=C(C=C1)[N+](=O)[O-])N1C(CC(CC1)=O)=O | C12H12N2O4
solvent | N,N-Dimethylformamide dimethyl acetal | 1 ml | COC(N(C)C)OC | C5H13NO2
product | 3-Dimethylaminomethylene-1-(2-methyl-5-nitro-phenyl)-piperidine-2,4-dione | CN(C)C=C1C(N(CCC1=O)C1=C(C=CC(=C1)[N+](=O)[O-])C)=O | C15H17N3O4
